US09399651B2
To a 25 mL round bottom flask containing 2-(1-hydroxyethyl)-1-[3-(isoquinolin-4-yl)phenyl]-5˜[(4-methoxybenzyl)oxy]pyridin-4(1H)-one was added 5 mL 1:1 (v/v) dichloromethane:trifluoroacetic acid and the solution was stirred at room temperature for 30 minutes and turned deep red. Concentration under nitrogen stream, purification by reversed phase HPLC (2 cm×5 cm CI 8, acetonitrile-water gradient, 0.05% TFA added), and elution from an SCX column (50 g, sulfonic acid, rinsed with MeOH, eluted with 1 N N¾ in MeOH) afforded 5-hydroxy-2-(1-hydroxyethyl)-1-[3-(isoquinolin-4-yl)phenyl]pyridin-4(1H)-one. ′H NMR (599 MHz, DMSO, 75° C.): 6 9.35 (s, 1H); 8.51 (s, 1H); 8.22 (d, J−8.2 Hz, 1H); 7.90 (d, J=8.5 Hz, 1H); 7.81 (t, J=7.7 Hz, 1H); 7.77-7.69 (m, 3H); 7.61 (s, 1H); 7.58 (d, J−7.8 Hz, 1H); 7.39 (s, 1H); 6.48 (s, 1H); 4.44 (q, J=6.4 Hz, 1H); 1.24 (d, J−6.4 Hz, 3H). HRMS (FT/ICR) calc 359.1390 (M+H)+ 359.1395 found.

reactant | 2-(1-hydroxyethyl)-1-[3-(isoquinolin-4-yl)phenyl]-5˜[(4-methoxybenzyl)oxy]pyridin-4(1H)-one | OC(C)C=1N(C=C(C(C1)=O)OCC1=CC=C(C=C1)OC)C1=CC(=CC=C1)C1=CN=CC2=CC=CC=C12 | C30H26N2O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 5-hydroxy-2-(1-hydroxyethyl)-1-[3-(isoquinolin-4-yl)phenyl]pyridin-4(1H)-one | OC=1C(C=C(N(C1)C1=CC(=CC=C1)C1=CN=CC2=CC=CC=C12)C(C)O)=O | C22H18N2O3
